US09212182B2
A vial was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.310 g, 0.627 mmol). (3-chloro-4-fluorophenyl)boronic acid (0.175 g, 1.003 mmol), Pd(Ph3P)4 (0.072 g, 0.063 mmol). The vial was sealed with a septum cap and flushed with Ar (g), then CPME (3.14 ml) and sodium carbonate 1.9 M (0.990 ml, 1.881 mmol) were added via syringe. The mixture was heated to 100° C. for 1 h and then partitioned between water (20 mL) and EtOAc (30 mL). The layers were separated and the aqueous layer was acidified with 1N HCl. The aqueous layer was extracted with EtOAc (2×20 mL) and all the organic layers were combined, dried (Na2SO4) and concentrated for purification by MPLC (Biotage Isolera). The crude residue was taken up in minimal CH2Cl2 and absorbed onto a 5 g loading cartridge and passed through a Redi-Sep® Gold pre-packed silica gel column (40 g) using 90:10 Heptane: EtOAc to 100% EtOAc gradient to afford racemic 1-(3′-chloro-2,4′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.325 g, 0.598 mmol, 95% yield) as a light-yellow film. Racemic 1-(3′-chloro-2,4′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide was subjected to chiral separation by SFC using a Regis Whelk-0 (s,$) column and 50% MeOH in CO2. Peak 1 was (P)-1-(3′-chloro-2,4′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide and peak 2 was (M)-1-(3′-chloro-2,4′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide. Data for peak 1: 1H NMR (500 MHz, DMSO-d6) δ 11.49-11.82 (br s, 1H), 8.71 (d, J=1.55 Hz, 1H), 8.37 (d, J=1.87 Hz, 1H), 8.17-8.28 (m, 1H), 7.94 (d, J=5.88 Hz, 1H), 7.86 (dd, J=1.98, 8.92

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.627 mmol, 0.310 g | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H13BrFN3O5S
reactant | (3-chloro-4-fluorophenyl)boronic acid | 1.003 mmol, 0.175 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | CPME | 3.14 ml | COC1CCCC1 | C6H12O
reactant | sodium carbonate | 1.881 mmol, 1.9 M, 0.990 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(Ph3P)4 | 0.063 mmol, 0.072 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | racemic 1-(3′-chloro-2,4′-difluoro-5-methoxy-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.598 mmol, 0.325 g, 95% yield | ClC=1C=C(C=CC1F)C1=C(C=C(C(=C1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)F | C25H16ClF2N3O5S
